US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (3 g, 7.7 mmol) was reacted with NBS (1.51 g, 8.47 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (2.2 g, 62%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 7.7 mmol, 3 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NC=CC=C1F | C19H16ClF2N3O2
reactant | NBS | 8.47 mmol, 1.51 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.2 g, 62% | BrCC1=C(C(N=C(N1)C1=NC=CC=C1F)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C19H15BrClF2N3O2
